US05635510
49.3 Synthesis of 3-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one
Cool trifluoroacetic acid (20 mL) using an ice bath and add 8-tert-butoxycarbonyl-3-benzyl-1-(4-fluoro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]decane (10 mmol). After 1 h, dilute with diethyl ether (150 mL), filter to obtain a residue. Purify to obtain the title compound.

reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 8-tert-butoxycarbonyl-3-benzyl-1-(4-fluoro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]decane | 10 mmol | C(C)(C)(C)OC(=O)N1CCC2(C(N(CN2C2=CC=C(C=C2)F)CC2=CC=CC=C2)=O)CC1 | C25H30FN3O3
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 3-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | C(C1=CC=CC=C1)N1CN(C2(C1=O)CCNCC2)C2=CC=C(C=C2)F | C20H22FN3O
